US09145380B2
2-[2-(4-Chlorophenyl)ethylsulfonylamino]benzenesulfonamide
2-Aminobenzenesulfonamide (0.52 g, 3 mmol) was dissolved in pyridine (20 mL) followed by addition of 2-(4-chlorophenyl)ethanesulfonyl chloride (0.80 g, 3.3 mmol) and the reaction was stirred at RT overnight. The solvent was then removed under reduced pressure and the crude material was purified by preparative HPLC (XTerra MS C8 column, acetonitrile/ammonium acetate buffer) to give the title compound (87 mg, 8%) as a white solid.

reactant | 2-Aminobenzenesulfonamide | 3 mmol, 0.52 g | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | 2-(4-chlorophenyl)ethanesulfonyl chloride | 3.3 mmol, 0.80 g | ClC1=CC=C(C=C1)CCS(=O)(=O)Cl | C8H8Cl2O2S
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 2-[2-(4-Chlorophenyl)ethylsulfonylamino]benzenesulfonamide | 87 mg, 8% | ClC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C14H15ClN2O4S2
